US04686220
4-(1,4-Dihydro-3-methyl-1,4-dioxo-2-naphthalenyl)-1-piperazinecarboxylic acid, ethyl ester
A mixture of 1.88 g of 2,3-epoxy-3-methyl-1,4-naphthoquinone, 3.16 g of piperazinecarboxylic acid, ethyl ester and 100 ml of absolute ethanol was stirred for 12 hours at 50° C. The solvent was then removed and the remainder filtered through a one inch plug of silica gel and eluted with chloroform. The eluate was evaporated, giving 1 g of the desired product as a viscous red oil.

reactant | 2,3-epoxy-3-methyl-1,4-naphthoquinone | 1.88 g | O1C2C(C3=CC=CC=C3C(C21C)=O)=O | C11H8O3
reactant | piperazinecarboxylic acid, ethyl ester | 3.16 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(1,4-Dihydro-3-methyl-1,4-dioxo-2-naphthalenyl)-1-piperazinecarboxylic acid, ethyl ester | 1 g | CC1=C(C(C2=CC=CC=C2C1=O)=O)N1CCN(CC1)C(=O)OCC | C18H20N2O4
